US04248881
6.1 g of 5-chloro-4-hydroxymethyl-3-methyl-1-phenylpyrazole are added portionwise to 50 ml of thionylchloride. The mixture is refluxed for 2 hours, the excess thionylchloride distilled off, the oily product treated with water and then extracted with ether. The dried ethereal extract is evaporated in vacuo yielding 6.1 g of oily 5-chloro-4-chloromethyl-3-methyl-1-phenylpyrazole which, without further purification, is used in the next reaction step.

reactant | 5-chloro-4-hydroxymethyl-3-methyl-1-phenylpyrazole | 6.1 g | ClC1=C(C(=NN1C1=CC=CC=C1)C)CO | C11H11ClN2O
reactant | thionylchloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloro-4-chloromethyl-3-methyl-1-phenylpyrazole | 6.1 g | ClC1=C(C(=NN1C1=CC=CC=C1)C)CCl | C11H10Cl2N2
